US04835183
3,7,11,15-Tetramethyl-2,4,6,8,10,14-hexadecahexaenoic acid
To a suspension of 30.3 g. of sodium ethoxide in 300 ml. of tetrahydrofuran was added 118 g. of diethyl 3-ethoxycarbonyl-2-methyl-2-propenylphosphonate. To the mixture was added 67 g. of 3,7,11-trimethyl-2,4,6,10-dodecatetraene-1-ol under stirring, chilling with ice and shielding from the light. After 1 hour, the reaction liquid was poured into 1 liter of water, and 1 liter of n-hexane was added for extraction. The n-hexane phase was separated, washed with two 100 ml. portions of a mixture of methanoland water (2:1), and concentrated to give 99 g. ofa concentrate. To a refluxing solution of 8.2 g. of potassium hydroxide and 80 ml. of isopropyl alcohol was added 21 g. of the concentrate under shielding from the light. After 15 minutes, the reaction liquid was poured into 300 ml. of ice-water, made acidic by addition of hydrochloric acid, and extracted with 300 ml. of diethyl ether. The extract was washed with three 100 ml. portions of water, dried over magnesium sulfate, and evaporated to remove the solvent. The residue was dissolved in 200 ml. of n-hexane and chilled to -20° C. to crystallize it. There was obtained 9.8 g. of the desired product as pale yellow crystals.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl 3-ethoxycarbonyl-2-methyl-2-propenylphosphonate | C(C)OC(=O)C=C(CP(OCC)(OCC)=O)C | C11H21O5P
reactant | 3,7,11-trimethyl-2,4,6,10-dodecatetraene-1-ol | CC(=CCO)C=CC=C(CCC=C(C)C)C | C15H24O
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | 1 liter | CCCCCC | C6H14
solvent | water | 1 liter | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,7,11,15-Tetramethyl-2,4,6,8,10,14-hexadecahexaenoic acid | CC(=CC(=O)O)C=CC=C(C=CC=C(CCC=C(C)C)C)C | C20H28O2
